US09227978B2
2-Amino-4,5-dichlorophenol
To a stirred solution of 4,5-dichloro-2-nitrophenol (15 g, 72 mmol) in acetic acid (150 mL) and water (450 mL), iron powder (16 g, 285 mmol) was added in portions. The resulting mixture was stirred at 50° C. for 2 h. The mixture was allowed to cool to room temperature, filtered, and the cake was rinsed with ethyl acetate. The filtrate was extracted with ethyl acetate. The organic layer was washed with water, NaHCO3 (aq.) and brine, dried over Na2SO4 and concentrated in vacuo to afford the desired product (10 g, 78%).

reactant | 4,5-dichloro-2-nitrophenol | 72 mmol, 15 g | ClC1=CC(=C(C=C1Cl)O)[N+](=O)[O-] | C6H3Cl2NO3
solvent | acetic acid | 150 mL | C(C)(=O)O | C2H4O2
solvent | water | 450 mL | O | H2O
catalyst | iron | 285 mmol, 16 g | [Fe] | Fe
product | 2-Amino-4,5-dichlorophenol | 10 g, 78% | NC1=C(C=C(C(=C1)Cl)Cl)O | C6H5Cl2NO
